US07645778B2
3-bromo-1,1,1-trifluoro-3-phenylpropan-2-one
1,1,1-trifluoro-3-phenylpropanone (0.50 mL, 3.2 mmol) was dissolved in 5 mL of diethyl ether and the mixture was cooled to 0° C. Bromine (0.16 mL, 3.2 mmoL) was added and the mixture was stirred for 18 h and allowed to warm to rt. The solvent was removed to provide a 2:1 mixture of Example A176a as a starting material which was used in the subsequent reaction without further purification.

reactant | 1,1,1-trifluoro-3-phenylpropanone | 3.2 mmol, 0.50 mL | FC(C(CC1=CC=CC=C1)=O)(F)F | C9H7F3O
reactant | Bromine | 0.16 mL | BrBr | Br2
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 3-bromo-1,1,1-trifluoro-3-phenylpropan-2-one | BrC(C(C(F)(F)F)=O)C1=CC=CC=C1 | C9H6BrF3O
